US07223773B2
350 mg of ethyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was dissolved in 3.5 ml of toluene. 1.8 ml of ethanol, 1.8 ml of 2 M aqueous sodium carbonate solution, 235 mg of 4-aminomethylphenylboronic acid hydrochloride and 40 mg of bis(triphenylphosphine)palladium (II) chloride were added to the obtained solution, and they were heated under reflux in argon atmosphere for 6 hours. The reaction mixture was acidified with 1 N hydrochloric acid. After washing the aqueous layer with ethyl acetate, it was taken and then concentrated under reduced pressure. 2 ml of methanol and 1 ml of 1 N sodium hydroxide were added to the obtained residue, and they were stirred at 50° C. for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in 10 ml of water and then neutralized with 1 N hydrochloric acid. The crystals thus formed were taken by the filtration to obtain 241 mg of 8-(4-aminomethylphenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid.

reactant | ethyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 350 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OCC)=O | C16H16ClNO3
reactant | sodium carbonate | 2 M, 1.8 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-aminomethylphenylboronic acid hydrochloride | 235 mg | Cl.NCC1=CC=C(C=C1)B(O)O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | toluene | 3.5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium (II) chloride | 40 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | ethanol | 1.8 ml | C(C)O | C2H6O
product | 8-(4-aminomethylphenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid | 241 mg | NCC1=CC=C(C=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)O)=O | C21H20N2O3
